US08084448B2
F. 2-Hydroxy-6-(4-{3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionylamino}-butoxy)-N,N-dimethylbenzamide
The title compound is prepared using (E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic acid and 2-(4-aminobutoxy)-6-benzyloxy-N,N-dimethylbenzamide analogous to Example 100 steps C and D: 1H NMR (DMSO-d6) δ 9.78 (s, 1H), 9.54 (s, 1H), 7.83-7.80 (t, J=5.55 Hz, 1H), 7.22-7.20 (d, J=8.08 Hz, 1H), 7.09-7.05 (t, J=8.34 Hz, 1H), 6.73 (d, J=1.76 Hz, 1H), 6.66-6.63 (dd, J=1.77, 8.09 Hz, 1H), 6.46-6.44 (d, J=8.08 Hz, 2H), 4.38 (s, 2H), 3.93-3.86 (m, 2H), 3.08-3.02 (m, 2H), 2.91 (s, 3H), 2.73-2.69 (t, J=6.32 Hz, 2H), 2.71 (s, 3H), 2.33-2.29 (t, J=8.34 Hz, 2H), 1.59-1.53 (m, 2H), 1.48-1.42 (m, 2H); (M−1)−=533.

reactant | (E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)/C=C/C(=O)O | C18H16N2O6S
reactant | 2-(4-aminobutoxy)-6-benzyloxy-N,N-dimethylbenzamide | NCCCCOC1=C(C(=O)N(C)C)C(=CC=C1)OCC1=CC=CC=C1 | C20H26N2O3
product | 2-Hydroxy-6-(4-{3-[3-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-propionylamino}-butoxy)-N,N-dimethylbenzamide | OC1=C(C(=O)N(C)C)C(=CC=C1)OCCCCNC(CCC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O)=O | C24H30N4O8S
